US07459562B2
C) tert-Butyl 4-(2-fluoro-4-nitrophenoxy)-3-(hydroxymethyl)pyridin-2-ylcarbamate
To tert-butyl 4-(2-fluoro-4-nitrophenoxy)-3-formylpyridin-2-ylcarbamate (75 mg, 0.2 mmol) in methanol (1 mL) at 0° C. was added sodium borohydride (7.6 mg, 0.20 mmol). After stirring at 0° C. for 30 min, the reaction was quenched with saturated aqueous ammonium chloride solution (1 mL). The reaction was diluted with EtOAc (5 mL) and the layers were separated. The organic layer was dried over anhydrous Na2SO4 and concentrated in vacuo to give the title compound (65 mg, 86%) as a white solid which was used without further purification. 1H NMR (CD3OD) δ 8.28 (dd, 1H, J=10.4, 2.8 Hz), 8.22-8.18 (m, 2H), 7.45 (t, 1H, J=8.4 Hz), 6.68 (d, 1H, J=6 Hz), 4.81 (s, 2H), 1.57 (s, 9H); MS(ESI+) m/z 380.27 (M+H)+.

reactant | tert-butyl 4-(2-fluoro-4-nitrophenoxy)-3-formylpyridin-2-ylcarbamate | 0.2 mmol, 75 mg | FC1=C(OC2=C(C(=NC=C2)NC(OC(C)(C)C)=O)C=O)C=CC(=C1)[N+](=O)[O-] | C17H16FN3O6
reactant | sodium borohydride | 0.20 mmol, 7.6 mg | [BH4-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | tert-Butyl 4-(2-fluoro-4-nitrophenoxy)-3-(hydroxymethyl)pyridin-2-ylcarbamate | 65 mg, 86% | FC1=C(OC2=C(C(=NC=C2)NC(OC(C)(C)C)=O)CO)C=CC(=C1)[N+](=O)[O-] | C17H18FN3O6
